US04327111
(E) N-(2,2-Dimethoxyethyl)-2-[(acetylthio)methyl]-4-methylpentanamide
A solution of 2-[(acetylthio)methyl]-4-methylpentanoic acid (2.0 g) and triethyl amine (1.0 g) in 50 ml of tetrahydrofuran (THF) is cooled to -5° C. Ethyl chloroformate (1.1 g) in 5 ml of THF is added dropwise and the reaction mixture is stirred at -5° C. for 30 minutes. Amino acetaldehyde dimethyl acetal (1.1 g) in 20 ml of THF is added dropwise to the mixed anhydride solution at -5° C. After addition, it is stirred at 10°-20° C. for 2 hours and stored at 0° C. for about 16 hours. Triethylamine hydrochloride is filtered off and the filtrate is concentrated in vacuo. The residue (2.1 g) is dissolved in 3 ml of ether. Silica gel (5 g) is added and ether is evaporated off. This is placed on top of 40 g of dry silica gel and washed through with pentane, 1:1 pentane:ether and finally ether. Product elutes with ether to yield 1.3 g of product which solidifies to give a low melting waxy solid.

reactant | 2-[(acetylthio)methyl]-4-methylpentanoic acid | 2.0 g | C(C)(=O)SCC(C(=O)O)CC(C)C | C9H16O3S
reactant | triethyl amine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | 1.1 g | ClC(=O)OCC | C3H5ClO2
reactant | Amino acetaldehyde dimethyl acetal | 1.1 g | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | N-(2,2-Dimethoxyethyl)-2-[(acetylthio)methyl]-4-methylpentanamide | 1.3 g | COC(CNC(C(CC(C)C)CSC(C)=O)=O)OC | C13H25NO4S
